US03992440
The starting material is prepared as follows: To the stirred solution 7.3 gof n-butylamine, 8 g of sodium hydroxide in 200 ml of water, 30 g of 4-chloro-5-chlorosulfonyl-3-nitrobenzoic acid are added portionwise while keeping the temperature between 0° and 5°. After 1/2 hour the mixture is allowed to warm to room temperature for 2 hours. The supernatant solution is filtered, the filtrate combined with 25 ml of 2N of hydrochloric acid, the precipitate formed collected and recrystallized from aqueous ethanol, to yield the 4-chloro-3-nitro-5-n-butylsulfamoylbenzoic acid melting at 199°-201°.

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | sodium hydroxide | 8 g | [OH-].[Na+]
reactant | 4-chloro-5-chlorosulfonyl-3-nitrobenzoic acid | 30 g | ClC1=C(C=C(C(=O)O)C=C1S(=O)(=O)Cl)[N+](=O)[O-] | C7H3Cl2NO6S
solvent | water | 200 ml | O | H2O
product | 4-chloro-3-nitro-5-n-butylsulfamoylbenzoic acid | ClC1=C(C=C(C(=O)O)C=C1S(NCCCC)(=O)=O)[N+](=O)[O-] | C11H13ClN2O6S
